US05185342
Production of (E)-N-methyl-2-[2-(4-t-butylphenoxy)phenyl]-2-methoxyiminoacetamide (Compound No. 19)
To a solution of (E)-N-methyl-2-(2-phenoxyphenyl)2-methoxyiminoacetamide (300 mg) in nitromethane (3 ml), aluminium chloride (423 mg) and t-butyl chloride (147 mg) were added, followed by stirring at room temperature for 1 hour. The reaction mixture was diluted with water and extracted with diethyl ether. The solvent was dried and evaporated, and the residue was purified by silica gel column chromatography with a mixture of hexane and ethyl acetate to give 375 mg of the objective compound.

reactant | (E)-N-methyl-2-(2-phenoxyphenyl)2-methoxyiminoacetamide | 300 mg | CNC(/C(=N/OC)/C1=C(C=CC=C1)OC1=CC=CC=C1)=O | C16H16N2O3
reactant | aluminium chloride | 423 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | t-butyl chloride | 147 mg | C(C)(C)(C)Cl | C4H9Cl
solvent | nitromethane | 3 ml | [N+](=O)([O-])C | CH3NO2
solvent | water | O | H2O
product | (E)-N-methyl-2-[2-(4-t-butylphenoxy)phenyl]-2-methoxyiminoacetamide | 375 mg | CNC(/C(=N/OC)/C1=C(C=CC=C1)OC1=CC=C(C=C1)C(C)(C)C)=O | C20H24N2O3
